Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain x12d associated with bloating, anorexia, mild 
nausea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female, 7 weeks postpartum after
uncomplicated NSVD, with history of CADASIL mutation, who
presents with right lower quadrant pain.  She initially 
developed
pain 12 days ago and presented to OB triage on ___.  At that
time the pain was primarily in the epigastrium and she underwent
right upper quadrant ___ with normal findings, pain improved
with Motrin, and she was able to take p.o. Labs at that time
showed leukocytosis to 15,000.  She was discharged home with a
diagnosis of viral gastroenteritis, and actually felt pretty 
well
for several day period.  Yesterday the pain became worse again,
more sharp and more focal in the right lower quadrant and she
presented to the ED for further work-up.  It was associated with
bloating, anorexia, mild nausea.  Last BM was yesterday and
normal.  In the ED, she was initially tachycardic to 112 which
has improved to 80 after fluids and antibiotics.  CT scan today
showed acute possibly gangrenous appendicitis with very 
extensive
phlegmonous changes, though no drainable abscesses, and concern
for perforation.  Surgery was consulted for further management. 
Of note, she has no abdominal surgical history.  She has no
personal or family history of colon cancer or IBD.  She has
otherwise been feeling well since her delivery.

 
Past Medical History:
CADASIL mutation carrier (CVA risk)

 
Social History:
___
Family History:
History of stroke in mother.  No family history of colorectal
cancer or IBD.

 
Physical Exam:
Physical Exam ___:
Vitals: T 98.5, HR 80, BP 112/79, RR 14, SPO2 98% RA
GEN: A&O, NAD, standing up near bed, well-appearing
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Normal work of breathing
ABD: Soft, minimally distended, tender to palpation diffusely
though most sensitive in the RLQ with voluntary guarding, 
Rovsing
sign negative, no palpable masses
EXT: No ___ edema, ___ warm and well perfused

Physical Exam at Discharge ___:
Vitals: T:97.6   BP:130/84  HR:64   RR:17   O2 Sat:96% Ra
Gen: Sitting up in bed breastfeeding child
CV: RRR
Pulm: clear, no increased work of breathing
ABD: Soft, mildly tender to palpation mainly in RLQ, 
non-distended, no rebound tenderness
EXT: no edema, warm
 
 
Pertinent Results:
___ 07:51AM BLOOD WBC-8.3 RBC-4.34 Hgb-12.7 Hct-39.1 MCV-90 
MCH-29.3 MCHC-32.5 RDW-12.2 RDWSD-40.3 Plt ___
___ 06:28AM BLOOD WBC-17.2* RBC-4.77 Hgb-13.8 Hct-42.5 
MCV-89 MCH-28.9 MCHC-32.5 RDW-12.2 RDWSD-39.8 Plt ___
___ 07:51AM BLOOD Plt ___
___ 07:51AM BLOOD Glucose-116* UreaN-8 Creat-0.8 Na-142 
K-4.4 Cl-105 HCO3-24 AnGap-13
___ 06:28AM BLOOD ALT-10 AST-16 AlkPhos-82 TotBili-0.6
___ 07:51AM BLOOD Calcium-9.4 Phos-4.2 Mg-1.8

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 9:29 AM 
1. Acute appendicitis, likely gangrenous, with suspected 
microperforation and extensive phlegmonous change within the 
right lower quadrant.  A 2.3 x 1.1 x 2.8 cm hypodense area 
adjacent to the appendix is suggestive of a small fluid 
collection, but is not drainable.  No radiopaque appendicolith. 
2. Fibroid uterus. 
3. Trace bilateral pleural effusions and minimal dependent 
atelectasis in both lower lobes. 

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ for evaluation and treatment of abdominal pain.  
Admission abdominal/pelvic CT revealed acute appendicitis 
concerning for gangrenous changes and microperforations. WBC was 
elevated at 17.2. After careful consideration and discussion of 
the risks and benefits of operating on a gangrenous appendix and 
given the delayed presentation, the patient and attending 
physician decided together to undergo conservative management 
with bowel rest and antibiotics. The patient arrived on the 
floor on IV fluids, metronidazole and ceftriaxone, and 
acetaminophen with a one time dose of IV morphine for pain 
control.  The patient was hemodynamically stable. We advised the 
patient to discard her pumped breast milk while on flagyl which 
she did initially.  She then spoke with her OB on the phone who 
counseled the patient that while most physicians ___ encourage 
her to dump her breast milk, based on her research and knowledge 
it was safe to keep and feed to her child.  
.
When tolerating a diet, the patient was converted to oral pain 
medication (acetaminophen) with continued good effect. Diet was 
progressively advanced as tolerated to a regular diet with good 
tolerability. The patient voided without problem. During this 
hospitalization, the patient ambulated early and frequently, was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.  Prior to discharge the patient was converted to oral 
antibiotics (Augmentin), and discharged with a course completed 
a total of 14 days on antibiotics. There was some concern that 
the patient may have had a PCN allergy.  Patient reported 
possible one time rash as a young child when on PCN, but also 
states she does not recall that actually happening, but that it 
may have happened to her mother who then just told the patient 
that she too had the allergy.  Either way, the patient wanted to 
be discharged on this antibiotic so that she could continue 
breast feeding.  A one time trial dose of Augmentin was given 4 
hours prior to discharge and the patient was observed for an 
allergic reaction, which did not occur.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
none other than prenatal vitamins
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
Please do not take more than 3000mg in 24 hours or with other 
medication containing tylenol  
2.  Amoxicillin-Clavulanic Acid ___ mg PO BID 
Please take the entire course of antibiotics for 14 days 
(started in the hospital on ___ 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth twice a day Disp #*24 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
perforated appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

You were admitted to ___ for 
acute pancreatitis. You are recovering well and are now ready 
for discharge. Please follow the instructions below to continue 
your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours. Call or return 
immediately if your pain is getting worse or changes location or 
moving to your chest or back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.  You should take the 
antibiotics (which were started in the hospital on ___ for a 
total of 14 days, and therefore be completed on ___.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___